US07943639B2
tert-Butyl-4-[2-(benzylsulfonyl)thieno[3,2-c]pyridin-4-yl]piperazine-1-carboxylate
Lithium 4-chlorothieno[3,2-c]pyridine-2-sulfinate (0.44 mmol) was treated with benzylbromide (0.59 mmol) as described in Method P above and then reacted further with tert-butyl-piperazine-1-carboxylate as described in Method Q. Yield 0.00 g (7% over two steps). Beige solid. 1H NMR (300 MHz, CDCl3) δ 8.14 (d, J=5.5 Hz 1H), 7.27-7.40 (m, 5H), 7.15-7.21 (m, 2H), 4.45 (s, 2H), 3.50-3.56 (m, 4H), 3.40-3.45 (m, 4H), 1.49 (s, 9H); MS (ESI+) for C23H27N3O4S2 m/z 474 (M+H)+. HPLC 77%, RT 3.93 min (ACE3 C8 50×4 mm, 5-50% acetonitrile in 3 min).

reactant | Lithium 4-chlorothieno[3,2-c]pyridine-2-sulfinate | 0.44 mmol | ClC1=NC=CC2=C1C=C(S2)S(=O)[O-].[Li+]
reactant | benzylbromide | 0.59 mmol | C(C1=CC=CC=C1)Br | C7H7Br
reactant | tert-butyl-piperazine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | acetonitrile | C(C)#N | C2H3N
product | tert-Butyl-4-[2-(benzylsulfonyl)thieno[3,2-c]pyridin-4-yl]piperazine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC2=C1C=C(S2)S(=O)(=O)CC2=CC=CC=C2 | C23H27N3O4S2
